US06521666B1
N-(4-Bromo-2,6-dichlorobenzoyl)-4-(2,6-dimethoxyphenyl)-L-phenylalanine methyl ester (0.240 g) was coupled with 1-[[2-(trimethylsilyl)ethoxy]methyl]-5-pyrazoleboronic acid (0.343 g) in THF (10 mL) as described in Example 7-2) to give N-[4-[1-[[2-(trimethylsilyl)ethoxy]methyl ]-5-pyrazolyl]-2,6-dichlorobenzoyl]-4-(2,6-dimethoxyphenyl)-L-phenylalanine methyl ester (0.277 g). ESMS: m/z 684 (MH+) and 682 (M−H)−.

reactant | N-(4-Bromo-2,6-dichlorobenzoyl)-4-(2,6-dimethoxyphenyl)-L-phenylalanine methyl ester | 0.240 g | COC([C@@H](NC(C1=C(C=C(C=C1Cl)Br)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1OC)OC)=O | C25H22BrCl2NO5
reactant | 1-[[2-(trimethylsilyl)ethoxy]methyl]-5-pyrazoleboronic acid | 0.343 g | C[Si](CCOCN1N=CC=C1B(O)O)(C)C | C9H19BN2O3Si
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-[4-[1-[[2-(trimethylsilyl)ethoxy]methyl ]-5-pyrazolyl]-2,6-dichlorobenzoyl]-4-(2,6-dimethoxyphenyl)-L-phenylalanine methyl ester | 0.277 g | COC([C@@H](NC(C1=C(C=C(C=C1Cl)C1=CC=NN1COCC[Si](C)(C)C)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1OC)OC)=O | C34H39Cl2N3O6Si
